US05082856
A mixture of 3.74 g (9.1 mmol) of ethyl 5-tridecanoyl-pyrrole-3-carboxylate dithioethylene ketal prepared in Sythetic Example 5 and 30 ml of Raney-nickel in 200 ml of ethanol was heated under reflux for 2 hours. After filteration through celite, the separated Raney-nickel was washed well with ethanol. The solvent was removed under reduced pressure, the residue was purified by subjecting it to silica gel column chromatography (eluent: ethyl acetate/hexane=1/7) to obtain 2.60 g (89% yield) of ethyl 5-tridecylpyrrole-3-carboxylate, m.p. 59.5°-60.5° C.

reactant | ethyl 5-tridecanoyl-pyrrole-3-carboxylate dithioethylene ketal | 9.1 mmol, 3.74 g | C1COC(OCC)(C2=CNC(=C2)C(CCCCCCCCCCCC)=O)OSS1 | C22H37NO4S2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | Raney-nickel | 30 ml | [Ni] | Ni
product | ethyl 5-tridecylpyrrole-3-carboxylate | 2.60 g, 89% yield | C(CCCCCCCCCCCC)C1=CC(=CN1)C(=O)OCC | C20H35NO2
